US04764627
Furfural aldehyde and methanol were co-fed in equal amounts over a ZSM-5 zeolite catalyst at atmospheric pressure and at about 500° C. temperature for a residence time of about 1 second. The WHSV ratio was about 25 for each species in the feedstock vapor. The resultant vapor was collected and tested and resulted in a furan/methylfuran/dimethylfuran product ratio of about 5.6/2/1. Therefore, co-feeidng methanol produced substantial methylation of the furan product.

reactant | Furfural | C(C1=CC=CO1)=O | C5H4O2
reactant | methanol | CO | CH4O
product | furan methylfuran dimethylfuran | O1C=CC=C1.CC=1OC=CC1.CC1=C(OC=C1)C | InChI=1S/C6H8O.C5H6O.C4H4O/c1-5-3-4-7-6(5)2;1-5-3-2-4-6-5;1-2-4-5-3-1/h3-4H,1-2H3;2-4H,1H3;1-4H
